US06455528B1
(1) Synthesis of 2-Chloro-4-methoxypyrimidine
To a solution of 2,4-dichloropyrimidine (32.4 g) in methanol (200 ml) was added dropwise a solution of sodium methoxide (11.7 g) in methanol (120 ml) over 40 min and the mixture was stirred for 30 min. The reaction mixture was poured into water (500 ml) and extracted with chloroform (300 ml). The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated and the obtained residue was recrystallized from hexane to give the title compound (21.5 g) as white crystals, m.p.=50-52° C.

reactant | 2,4-dichloropyrimidine | 32.4 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | sodium methoxide | 11.7 g | C[O-].[Na+]
reactant | water | 500 ml | O | H2O
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 120 ml | CO | CH4O
product | 2-Chloro-4-methoxypyrimidine | 21.5 g | ClC1=NC=CC(=N1)OC | C5H5ClN2O
